US07423061B2
(S)-3-{[2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carbonyl]-amino}-azepane-1carboxylic acid tert-butyl ester.
To a stirred solution of 2-amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid (1.0 g, 4.0 mmol) in anhydrous DMF (20 mL) is added (S)-3-amino-azepane-1-carboxylic acid tert-butyl ester (1.03 g, 4.8 mmol), BOP (2.6 g, 6.0 mmol) and NMM (0.6 mL, 5 mmol). The reaction mixture was stirred overnight at room temperature. The solution was diluted with water and EtOAc. The organic layer was separated and set aside. The remaining aqueous layer was extracted with EtOAc (2×) and then the combined organic extracts were pooled and washed with brine. The resultant EtOAc solution was dried over Na2SO4, filtered, and concentrated under vacuum to yield a brown solid. Purification was performed by ISCO MPLC (SiO2, 30-50% EtOAc/hexanes) to give 0.9 g (50%) of an off-white solid. 1H NMR (d6-DMSO δ 7.51, d, 0.5H; δ 7.46, s, 0.5H; δ 7.37, s, 0.5H; δ 7.36, d, 0.5H; δ 7.34, br s, 2H; δ 7.33, d, 2H; δ 6.93, d, 2H; δ 4.11, br s, 1H; δ 3.76, s, 3H; δ 3.61, dq, 1H; δ 3.47, m, 1H; δ 3.11, m, 2H; δ 1.73, m, 3H; δ 1.56, m, 2H; δ 1.42, s, 4.5H; δ 1.38, s+m, 5.5H;), LC/MS (APCI, ES, M+H=446).

reactant | 2-amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid | 4.0 mmol, 1.0 g | NC=1SC(=CC1C(=O)O)C1=CC=C(C=C1)OC | C12H11NO3S
reactant | (S)-3-amino-azepane-1-carboxylic acid tert-butyl ester | 4.8 mmol, 1.03 g | C(C)(C)(C)OC(=O)N1C[C@H](CCCC1)N | C11H22N2O2
reactant | BOP | 6.0 mmol, 2.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NMM | 5 mmol, 0.6 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-{[2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carbonyl]-amino}-azepane-1carboxylic acid tert-butyl ester | 0.9 g, 50% | C(C)(C)(C)OC(=O)N1C[C@H](CCCC1)NC(=O)C1=C(SC(=C1)C1=CC=C(C=C1)OC)N | C23H31N3O4S
